US04018788
A mixture of 1,3-dihydro-5-(o-fluorophenyl)-2H-1,4-benzodiazepin-2-one [Sternbach et al., J. Org. Chem. 27, 3788 (1962)] and P2S5 can be reacted in the same manner as in preparation I to produce 1,3-dihydro-5-(o-fluorophenyl)-2H-1,4-benzodiazepine-2-thione. This latter compound can then be substituted in the procedure of Exmple 1 to produce 6-(o-fluorophenyll)-1methyl-4H-s-triazolo[4,3-a] [1,4] benzodiazepine.

reactant | 1,3-dihydro-5-(o-fluorophenyl)-2H-1,4-benzodiazepin-2-one | FC1=C(C=CC=C1)C1=NCC(NC2=C1C=CC=C2)=O | C15H11FN2O
reactant | P2S5 | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
product | 1,3-dihydro-5-(o-fluorophenyl)-2H-1,4-benzodiazepine-2-thione | FC1=C(C=CC=C1)C1=NCC(NC2=C1C=CC=C2)=S | C15H11FN2S
